US07361659B2
To a stirred solution of (RS)-3-pyrrolidinol (0.75 g, 8.6 mmol) in THF (18 ml) was added at room temperature 5-chloro-4-nitrothiophene-2-sulfonyl chloride (1.5 g, 5.72 mmol) and triethylamine (0.88 ml, 6.3 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by column chromatography on silica gel (ethyl acetate), and subsequent crystallization from dichloromethane/MeOH/hexane to yield (RS)-1-(5-chloro-4-nitro-thiophene-2-sulfonyl)-pyrrolidin-3-ol (0.65 g, 36%) as a yellow solid. MS (EI) 312.0 [(M)+], mp 96° C.

reactant | (RS)-3-pyrrolidinol | 8.6 mmol, 0.75 g | N1CC(CC1)O | C4H9NO
reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 5.72 mmol, 1.5 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
reactant | triethylamine | 6.3 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | (RS)-1-(5-chloro-4-nitro-thiophene-2-sulfonyl)-pyrrolidin-3-ol | 0.65 g, 36% | ClC1=C(C=C(S1)S(=O)(=O)N1CC(CC1)O)[N+](=O)[O-] | C8H9ClN2O5S2
